US09388173B2
Step 2: 6-Bromo-3-methyl-1H-indole
To a solution of 6-bromo-1H-indole-3-carbaldehyde (300 mg, 1.34 mmol) in THF (10 mL) was added LiAlH4 (100 mg, 2.63 mmol) at 0° C. The mixture was heated to 70° C. and stirred for 4 h at this temperature. Upon cooling, the reaction solution was quenched with 40% of NaOH and filtered and the filtrate concentrated to give crude product which was used in next step without further purification. LCMS (m/z): 210.1 [M+H]+.

reactant | 6-bromo-1H-indole-3-carbaldehyde | 1.34 mmol, 300 mg | BrC1=CC=C2C(=CNC2=C1)C=O | C9H6BrNO
reactant | LiAlH4 | 2.63 mmol, 100 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Bromo-3-methyl-1H-indole | BrC1=CC=C2C(=CNC2=C1)C | C9H8BrN
